US06281227B1
L. 7-Methoxynaphthalene-2-sulfonic acid [1-(1-phenoxy-isoquinolin-7-ylmethyl)-oxopyrrolidin-3-(R,S)-yl]-amide
Phenol (6.81 g, 72.4 mmol) and potassium hydroxide ( 0.41 g, 7.31 mmol) are added to 7-methoxynaphthalene-2-sulfonic acid [1-(1-chloro-isoquinolin-7-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-amide (1.8 g, 3.6 mmol) and heated to 90° C. until a homogeneous mixture is obtained. The mixture is stirred overnight at 90° C., then cooled to room temperature and diluted with methylene chloride (100 mL) and water. The aqueous layer is neutralized to pH 7 using 1 N HCl, then the two layers are separated and the aqueous layer is extracted with additional methylene chloride. The combined organic layers are washed with brine, dried over MgSO4, filtered and concentrated. The residue is purified by column chromatography eluting with a gradient of 30% EtOAc/hexanes to 60% EtOAc/hexanes to give the product (1.66 g, 3 mmol) as a white solid.

reactant | Phenol | 72.4 mmol, 6.81 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium hydroxide | 7.31 mmol, 0.41 g | [OH-].[K+]
reactant | 7-methoxynaphthalene-2-sulfonic acid [1-(1-chloro-isoquinolin-7-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-amide | 3.6 mmol, 1.8 g | ClC1=NC=CC2=CC=C(C=C12)CN1C([C@H](CC1)NS(=O)(=O)C1=CC2=CC(=CC=C2C=C1)OC)=O | C25H22ClN3O4S
reactant | HCl | 1 N | Cl | ClH
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 7-Methoxynaphthalene-2-sulfonic acid [1-(1-phenoxy-isoquinolin-7-ylmethyl)-oxopyrrolidin-3-(R,S)-yl]-amide | 3 mmol, 1.66 g | O(C1=CC=CC=C1)C1=NC=CC2=CC=C(C=C12)CN1C(C(CC1)NS(=O)(=O)C1=CC2=CC(=CC=C2C=C1)OC)=O | C31H27N3O5S
